US08217032B2
[2-(2,5-Difluorophenyl)-6-hydroxynaphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone
Convert [2-(2,5-difluoro-phenyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone (1.8 g, 3.5 mmol) to the hydrochloride salt and dissolve it in 300 mL methylene chloride. Chill the mixture in ice and slowly add boron tribromide (5.0 mL, 53.0 mmol) with swirling. Allow the mixture to come to room temperature and stir for two hours. Add to this mixture acetonitrile (15 mL) slowly and with stirring which produces an orange precipitate. Pour the mixture into saturated sodium bicarbonate with stirring, separate the organic layer and dry with molecular sieves to give 1.5 g of the title compound (86%).

reactant | [2-(2,5-difluoro-phenyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 3.5 mmol, 1.8 g | FC1=C(C=C(C=C1)F)C1=C(C2=CC=C(C=C2C=C1)OC)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1 | C31H29F2NO3
reactant | boron tribromide | 53.0 mmol, 5.0 mL | B(Br)(Br)Br | BBr3
reactant | acetonitrile | 15 mL | C(C)#N | C2H3N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | [2-(2,5-Difluorophenyl)-6-hydroxynaphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 1.5 g, 86% | FC1=C(C=C(C=C1)F)C1=C(C2=CC=C(C=C2C=C1)O)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1 | C30H27F2NO3
